Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
red dye
 
Attending: ___.
 
Chief Complaint:
Recurrent ventral hernia  
 
Major Surgical or Invasive Procedure:
Repair of recurrent ventral hernia with mesh.

 
History of Present Illness:
___ year old woman s/p repair of strangulated, incarcerated 
ventral hernia in ___ ___ presenting at the 
direction of her PCP for recurrent hernia. Patient reports that 
the hernia is more prominent when she stands. Ms. ___ does 
not endorse any pain, even with coughing or straining. Patient 
further denies fever/chills, nausea/vomiting, chest pain, or 
shortness of breath.  

Of note, the patient reports that she has experienced 
significant decline in her health over the last ___ years.  She 
now has end-stage renal disease requiring dialysis 3 times a 
week, and has undergone multiple orthopedic procedures, 
including right sided below knee amputation.
 
Past Medical History:
PMH:
Coronary Artery Disease
Hyperlipidemia
HTN
Diabetes Type II
Chronic Panniculitis 
ESRD on HD (MWF)

PSH:
Open ventral hernia repair with mesh (___)
CABG 4-Vessel (___) 
Closed hip reduction s/p intertrochanteric fx (___)
Panniculectomy/debridement of abdominal ulcer (___)
Debridement of non-healing abdominal wounds x3 (___)
Repair of strangulated incarcerated ventral hernia and resection
of omentum (___) 
Right below knee amputation (___)
Re-amputation of right BKA (___)
 
Social History:
___
Family History:
FH: 
-Father: CAD->CABG, ?lymphoma
-Mother: ___ years old, healthy
 
Physical Exam:
General: Appears well
HEENT: Oral mucosa is moist. EOMI. PEERLA
Cardiac: RRR. No M/R/G
Lungs: CTAB. No crackles. No DTP
Abdomen: Soft, nondistended, appropriately tender with multiple 
incisions. Current operative incision appears CDI with no 
erythema or purulence
Extremities: RUE AVF , right sided below knee amputation 

Discharge Physical Exam:
VS: 97.7, 125/52, 58, 18, 97 RA
Gen: A&O x3, lying in bed in NAD
CV:  RRR. normal S1,S2. No murmurs, rubs, clicks, or gallops  
Pulm: LS ctab
Abd: soft, NT/ND. Midline incision with staples, prior erythema 
had been marked, has mostly resolved.
EXT: WWP, NO CCE. R bka. RUE AVF

 
Pertinent Results:
___ 06:36AM BLOOD WBC-8.8 RBC-2.62* Hgb-9.1* Hct-28.6* 
MCV-109* MCH-34.7* MCHC-31.8* RDW-15.9* RDWSD-62.3* Plt ___
___ 02:30PM BLOOD WBC-9.3 RBC-2.91* Hgb-9.7* Hct-30.5* 
MCV-105* MCH-33.3* MCHC-31.8* RDW-15.6* RDWSD-57.8* Plt ___
___ 05:31PM BLOOD WBC-7.4 RBC-3.09* Hgb-10.3* Hct-32.2* 
MCV-104* MCH-33.3* MCHC-32.0 RDW-15.3 RDWSD-56.8* Plt ___
___ 06:36AM BLOOD Plt ___
___ 02:30PM BLOOD Plt ___
___ 05:31PM BLOOD Plt ___
___ 06:36AM BLOOD Glucose-143* UreaN-22* Creat-5.2* Na-140 
K-4.6 Cl-99 HCO3-26 AnGap-15
___ 09:40PM BLOOD Glucose-162* UreaN-17 Creat-4.4*# Na-139 
K-4.3 Cl-97 HCO3-29 AnGap-13
___ 02:30PM BLOOD Glucose-147* UreaN-48* Creat-8.5* Na-137 
K-5.8* Cl-94* HCO3-24 AnGap-19*
___ 01:08AM BLOOD K-5.3
___ 08:05PM BLOOD Glucose-119* UreaN-41* Creat-7.1* Na-136 
K-6.1* Cl-95* HCO3-27 AnGap-14
___ 05:31PM BLOOD Glucose-108* UreaN-40* Creat-7.0*# Na-136 
K-6.2* Cl-94* HCO3-27 AnGap-15

CXR:
In this patient with intact midline sternal wires, there 
are low lung volumes that accentuate the prominence of the 
transverse diameter of the heart.  No appreciable vascular 
congestion, pleural effusion, or acute focal pneumonia.  Streaks 
of atelectasis are seen in the midlung zones bilaterally, more 
prominent on the right. 

 
Brief Hospital Course:
Patient is a ___ women with history of DM2, HTN, ESRD in HD. 
The patient was admitted to the Acute Care Trauma Surgery team 
and underwent ventral herniorrhaphy with mesh. She tolerated the 
procedure well with minimal blood loss and was transferred to 
the floor post-operatively. An abdominal binder was placed over 
dressing.

Patient tolerated a clear diet on POD# 1, and progressed to 
regular diet, she reported passing flatus on POD #1, and a low 
volume of voiding (due to her ESRD) which she reported was her 
baseline. 

Patient underwent hemodialysis session on POD 1 (___) which 
she tolerated appropriately. Patient started mobilization on 
POD2 and continue tolerating regular diet. Pain was well 
controlled with oral agents. Reported bowel movements on POD 2.

On POD 3, her heart increased to 150s and EKG was found to be 
SVT rhythm. With multiple doses of metoprolol, her SBP decreased 
to high ___ while her heart rate continued to be in 140s. She 
was then transferred to ICU. She was switched to metoprolol 
12.5mg TID. In the process of putting in PICC and the tip 
touched the atrium, her heart rate converted back to sinus 
rhythm. Cardiology was consulted and recommended outpatient 
follow up with her cardiologist with ___ of hearts holter 
monitoring. On POD 4 she was transferred out of the ICU given 
hemodyanmically stable. On POD 5 while on the floor, 
metoprolol-refractory SVT occurred again and she was transferred 
back to ICU. In addition to IV metoprolol, PO metoprolol was 
increased to 25mg TID. On POD6 AM, her heart converted back to 
sinus rhythm and at times sinus bradycardia with a long pulse 
that resolved when she was woken up. Cardiology and EP were 
reconsulted and recommended decreasing metoprolol back to 12.5mg 
BID. She was transferred back to floor. She was started on 
Coumadin with a heparin drip bridge. She was stablized on 
Coumadin, with INR between 2.5- 3.0. At the time of discharge, 
she was hemodynamically stable.

She was discharged to rehab and was instructed to follow up with 
her weekly HD (MWF). She is scheduled for a follow up in the ___ 
clinic in 2 weeks. A follow up appointment has been established 
with her PCP ___ 1 week, as well as she was connected to a 
___ clinic associated with her PCP for management. 
 
Medications on Admission:
CALCIUM ACETATE - calcium acetate 667 mg capsule. ___ capsule(s)
by mouth three times a day after each meal -  (Prescribed by
Other Provider)
OXYCODONE - oxycodone 5 mg capsule. 1 capsule(s) by mouth at
bedtime -  (Prescribed by Other Provider)
ASPIRIN - Aspirin 81mg daily
CALCITRIOL 0.5mcg PS qHD session
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  Lactulose 20 mL PO DAILY  
4.  Metoprolol Tartrate 12.5 mg PO BID  
5.  Midodrine 10 mg PO TID  
6.  Milk of Magnesia 30 mL PO Q4H:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.  Nephrocaps 1 CAP PO DAILY  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Ramelteon 8 mg PO QHS 
Should be given 30 minutes before bedtime  
10.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*10 Tablet Refills:*0 
11.  ___  MD to order daily dose PO DAILY16  
12.  Aspirin 81 mg PO DAILY  
13.  Calcium Acetate 1334 mg PO TID W/MEALS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Recurrent ventral hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ and 
underwent repair of a recurrent ventral hernia with mesh.
An abdominal binder was placed along with the dressing over the 
incision. On ___ ___ tolerated well a regular diet and 
underwent hemodialysis. Your pain is well controlled. 
Post-operatively ___ developed a very fast heart rate called 
atrial flutter and were transferred to the ICU for close 
monitoring and cardiology consultation. ___ have been started on 
warfarin (Coumadin) which is a blood thinner to prevent blood 
clots. This medication requires frequent blood work to check an 
INR level and dosing of the medication to keep your INR in a 
therapeutic range of ___. ___ were also started on a new 
medication to control your heart rate called metoprolol. ___ 
will need to follow-up with your cardiologist for ongoing 
management of your cardiac medications. Cardiology is also 
recommending ___ of Hearts monitor upon discharge to watch 
your heart rhythm for 2 weeks. This will need to be arranged 
once ___ leave rehab. 

Your heart rate is now controlled. ___ are recovering well and 
are ready for discharge. Please follow the instructions below to 
continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
___ experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If ___ are vomiting and cannot keep down fluids or your 
medications.
___ are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
___ see blood or dark/black material when ___ vomit or have a 
bowel movement.
___ experience burning when ___ urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
___.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if ___ have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
___ may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If ___ have staples, they will be removed at your follow-up 
appointment.

Warm Regards, 

Your ___ Surgery Team
 
Followup Instructions:
___